US07579351B2
7-(3-Chloro-propoxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one
The title compound was synthesized in analogy to example 2, intermediate, from 7-hydroxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one (example 84, intermediate a) and 1-bromo-3-chloropropane, to give the desired product as a light yellow solid (80%).

reactant | 7-hydroxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C10H9N3O2
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 7-(3-Chloro-propoxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | 80% | ClCCCOC1=CN=C2N3CCNC(C3=CC2=C1)=O | C13H14ClN3O2
